US06730792B2
A solution of 3-dimethylamino-2-(2-methoxyphenyl)propenal (4.68 g, 22.8 mmol) and hydrazine hydrate (6.7 ml) in ethanol (100 ml) is heated at reflux for 30 minutes. The solvent is removed in vacuo and the residue is chromatographed (silica gel, dichloromethane/ethanol 95:5) to give 2.69 g of 4-(2-methoxyphenyl)pyrazole (68%).

reactant | 3-dimethylamino-2-(2-methoxyphenyl)propenal | 22.8 mmol, 4.68 g | CN(C=C(C=O)C1=C(C=CC=C1)OC)C | C12H15NO2
reactant | hydrazine hydrate | 6.7 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(2-methoxyphenyl)pyrazole | 2.69 g, 68% | COC1=C(C=CC=C1)C=1C=NNC1 | C10H10N2O
